US05254541
Step A: 3-[N-p-Chlorobenzyl-3-(t-butylthio)-5-methoxyindol-2-yl]-2,2-dimethylpropanoic acid methyl ester
To a solution of 39 g of methyl 5-(t-butylthio)-2,2-dimethyl-4-oxopentanoate in a mixture of 300 mL of toluene and 150 mL of glacial acetic acid was added 15 g of NaOAc and 50 g of 1-(4-methoxyphenyl)-1-(p-chlorobenzyl)hydrazine hydrochloride. The reaction was maintained with stirring at room temperature for 3 days under argon in the dark. The mixture was poured into 3 L of H2O and extracted with 3×500 mL of EtOAc. The ethyl acetate was washed with 3×500 mL of water then solid NaHCO3 was added. The mixture was filtered and the filtrate washed twice with water. The organic phase was dried over MgSO4 and evaporated to dryness to provide the title compound. m.p. 102°-103° C.

reactant | methyl 5-(t-butylthio)-2,2-dimethyl-4-oxopentanoate | 39 g | C(C)(C)(C)SCC(CC(C(=O)OC)(C)C)=O | C12H22O3S
reactant | NaOAc | 15 g | CC(=O)[O-].[Na+]
reactant | 1-(4-methoxyphenyl)-1-(p-chlorobenzyl)hydrazine hydrochloride | 50 g | Cl.COC1=CC=C(C=C1)N(N)CC1=CC=C(C=C1)Cl
reactant | H2O | 3 L | O | H2O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 3-[N-p-Chlorobenzyl-3-(t-butylthio)-5-methoxyindol-2-yl]-2,2-dimethylpropanoic acid methyl ester | COC(C(CC=1N(C2=CC=C(C=C2C1SC(C)(C)C)OC)CC1=CC=C(C=C1)Cl)(C)C)=O | C26H32ClNO3S
